US04180559
Thirty grams of 2-chlorodibenzo[b,f]oxepin-10(11H)-one, prepared in accordance with the procedure of Example 3, 45 grams of N-methylpiperazine and a solution of 8 grams of p-toluenesulfonic acid monohydrate in 150 ml of xylene are refluxed for a period of 22 hours in a reflux apparatus equipped with a Dean-Stark trap in order to remove the water that forms. The reaction mixture is cooled, treated with a solution of sodium bicarbonate, washed with water until the water washings are neutral, dried over anhydrous sodium sulfate and filtered through a column of neutral aluminum oxide. The filtrate is concentrated to dryness in vacuo and the residue, 46 grams, crystallized from ethanol to yield 32 grams of 1-(2-chlorodibenzo[b,f]oxepin-10-yl)-4-methylpiperazine having an m.p. of 119°-121° C.

reactant | 2-chlorodibenzo[b,f]oxepin-10(11H)-one | Thirty grams | ClC1=CC2=C(OC3=C(C(C2)=O)C=CC=C3)C=C1 | C14H9ClO2
reactant | N-methylpiperazine | 45 grams | CN1CCNCC1 | C5H12N2
reactant | p-toluenesulfonic acid monohydrate | 8 grams | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(2-chlorodibenzo[b,f]oxepin-10-yl)-4-methylpiperazine | 32 grams | ClC1=CC2=C(OC3=C(C(=C2)N2CCN(CC2)C)C=CC=C3)C=C1 | C19H19ClN2O
